US08034812B2
Production of N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-methylphenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide
Using N-[6-(3-amino-2-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (130 mg, 0.402 mmol), 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride (83 mg, 0.523 mmol), triethylamine (122 mg, 1.21 mmol) and tetrahydrofuran (5.0 mL) as starting materials and in the same manner as in Example 96, the title compound (146 mg, 82%) was obtained as a white powder.

reactant | N-[6-(3-amino-2-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.402 mmol, 130 mg | NC=1C(=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1)C | C17H17N5O2
reactant | 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride | 0.523 mmol, 83 mg | CN1N=C(C=C1C(=O)Cl)C | C6H7ClN2O
reactant | triethylamine | 1.21 mmol, 122 mg | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
product | N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-methylphenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide | 146 mg, 82% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C(=C(C=CC2)NC(=O)C2=CC(=NN2C)C)C)C1 | C23H23N7O3
